US07138425B2
c) 2-[4-Methoxy-5-[5-(2-benzofuranyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(2-benzofuranyl)benzoxazole (105 mg, 0.29 mmol) and 1,2,4-benzenetricarboxylic anhydride (57 mg, 0.29 mmol) the title compound was obtained (98 mg, 63%). 1H NMR (DMSO) δ 13.74(s, 1H), 8.43(dd, 1H), 8.32(d, 2H), 8.21(d, 1H), 8.10(d, 1H), 8.02(dd, 1H), 7.92(d, 1H), 7.72(dd, 1H), 7.67(t, 2H), 7.54(s, 1H), 7.47(d, 1H), 7.31(m, 2H), 4.03(s, 3H). MS 531.2 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(2-benzofuranyl)benzoxazole | 0.29 mmol, 105 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C=2OC1=C(C2)C=CC=C1 | C22H16N2O3
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.29 mmol, 57 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(2-benzofuranyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C=2OC1=C(C2)C=CC=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C31H18N2O7
